US09428458B2
1.016 g (5 mmol) of pyridoxal hydrochloride (Aldrich) was placed in an Erlenmeyer and a solution of 0.456 g sodium bicarbonate (5.4 mmol) in 5 mL water was added. The resulting solution was set aside for some time and crystals precipitated. The thus precipitated crystals were collected by filtration, washed with cold water and dried to afford 0.68 g of the pyridoxal free base (80% yield).

reactant | pyridoxal hydrochloride | 5 mmol, 1.016 g | CC1=NC=C(C(=C1O)C=O)CO.Cl
reactant | sodium bicarbonate | 5.4 mmol, 0.456 g | C([O-])(O)=O.[Na+]
solvent | water | 5 mL | O | H2O
product | pyridoxal | 0.68 g, 80% yield | CC1=C(C(=C(C=N1)CO)C=O)O | C8H9NO3
